US06630598B2
Production of N-t-butoxycarbonyl-5-methoxy-2-nitroaniline
0.72 g of sodium hydride (60% content) was suspended in 7.05 g of tetrahydrofuran and cooled with ice. To the obtained suspension, 8.21 g of a tetrahydrofuran solution containing 1.00 g of 5-methoxy-2-nitroaniline was added, stirred for 10 minutes, allowed to stand at room temperature and stirred for 1 hour. To the obtained mixture, 1.46 g of di-t-butyl dicarbonate was added at room temperature and stirred for 2 hours. The reaction mixture was added to ice water and extracted with toluene to separate an organic layer and then the organic layer was analyzed by high performance liquid chromatography to find the yield of the desired product was 92%.

reactant | sodium hydride | 0.72 g | [H-].[Na+]
reactant | 5-methoxy-2-nitroaniline | 1.00 g | COC=1C=CC(=C(N)C1)[N+](=O)[O-] | C7H8N2O3
reactant | di-t-butyl dicarbonate | 1.46 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 7.05 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8.21 g | O1CCCC1 | C4H8O
product | N-t-butoxycarbonyl-5-methoxy-2-nitroaniline | C(C)(C)(C)OC(=O)NC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C12H16N2O5
